US07517910B2
methyl 3-(4-{[3-(1-benzothiophen-3-yl)benzyl]oxy}phenyl)propanoate
To a solution of [3-(1-benzothiophen-3-yl)phenyl]methanol (0.70 g, 2.91 mmol), methyl 3-(4-hydroxyphenyl)propanoate (0.58 g, 3.22 mmol) and tributylphosphine (0.95 mL, 3.81 mmol) in anhydrous tetrahydrofuran (40 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.96 g, 3.80 mmol) by small portions, and the mixture was stirred at room temperature for 18 hr. The reaction solution was diluted with diethyl ether (40 mL). The precipitate was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:5) to give the title compound (1.0 g, yield 85%) as a colorless oil. MS: m/z 403 (MH+).

reactant | [3-(1-benzothiophen-3-yl)phenyl]methanol | 2.91 mmol, 0.70 g | S1C=C(C2=C1C=CC=C2)C=2C=C(C=CC2)CO | C15H12OS
reactant | methyl 3-(4-hydroxyphenyl)propanoate | 3.22 mmol, 0.58 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | tributylphosphine | 3.81 mmol, 0.95 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.80 mmol, 0.96 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | methyl 3-(4-{[3-(1-benzothiophen-3-yl)benzyl]oxy}phenyl)propanoate | 1.0 g, yield 85% | S1C=C(C2=C1C=CC=C2)C=2C=C(COC1=CC=C(C=C1)CCC(=O)OC)C=CC2 | C25H22O3S
